US05439917
Preparation of 3-cyanomethyl-5-fluoro-2-methyl-7-(2-methoxyphenacyl)pyrrolo[2,3-b]pyridine hydrobromide
A mixture of 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine (20 mg, 0.11 mmol) and 2-methoxyphenacyl bromide (30 mg, 0.13 mmol) in acetonitrile (0.2 ml) was refluxed under argon for 6 h, during which time the initial solution was transformed into a suspension. Then the suspension was allowed to reach room temperature, diluted with diethyl ether (2 ml), filtered, and washed with diethylether to give 36 mg (81%) of the title compound.

reactant | 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine | 0.11 mmol, 20 mg | C(#N)CC1=C(NC2=NC=C(C=C21)F)C | C10H8FN3
reactant | 2-methoxyphenacyl bromide | 0.13 mmol, 30 mg | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | 3-cyanomethyl-5-fluoro-2-methyl-7-(2-methoxyphenacyl)pyrrolo[2,3-b]pyridine hydrobromide | 36 mg, 81% | Br.C(#N)CC1=C(N=C2N(C=C(C=C21)F)CC(=O)C2=C(C=CC=C2)OC)C | InChI=1S/C19H16FN3O2.BrH/c1-12-14(7-8-21)16-9-13(20)10-23(19(16)22-12)11-17(24)15-5-3-4-6-18(15)25-2;/h3-6,9-10H,7,11H2,1-2H3;1H
